US07709481B2
17.3 g 2-Chloro-4-methyl-benzonitrile were dissolved in 50 ml tetrachloromethane and heated to reflux. A mixture of 24.3 g N-bromosuccinimide and 7.48 g 2,2′-azobis(2-methylpropionitrile) were added in five portions over a period of one hour. The reaction mixture was heated under reflux for additional three hours. The cooled reaction mixture was then filtered through a celite pad. The filtrate was washed with 100 ml saturated NaHCO3 solution, dried over MgSO4 and the solvent was removed in vacuo. The resulting residue was dissolved in 200 ml tetrahydrofuran and cooled in an ice bath to 0° C. 88.0 ml Diethyl phosphite were added, followed by the addition of 117.0 ml N,N-Diisopropylethylamine. The cooling bath was removed and the reaction mixture stirred at room temperature for four hours. The reaction mixture was poured in 400 ml 50% NaHCO3 solution and extracted with 400 ml diethylether. The organic layer was separated and washed with 200 ml 50% NaHCO3 solution and 200 ml water and then dried over MgSO4. The solvent was removed in vacuo. The resulting residue was purified on silica gel with the eluent n-heptane ethyl acetate=19:1 to obtain 13.0 g 4-Bromomethyl-2-chloro-benzonitrile as a solid.

reactant | 2-Chloro-4-methyl-benzonitrile | 17.3 g | ClC1=C(C#N)C=CC(=C1)C | C8H6ClN
reactant | N-bromosuccinimide | 24.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 7.48 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrachloromethane | 50 ml | ClC(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-2-chloro-benzonitrile | 13.0 g | BrCC1=CC(=C(C#N)C=C1)Cl | C8H5BrClN
